US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 8-benzyloxychroman-4-carboxylic acid (0.54 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.51 g) as starting materials, 8-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)chroman-4-carboxamide (1 g) was obtained.

reactant | 8-benzyloxychroman-4-carboxylic acid | 0.54 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(CCOC12)C(=O)O | C17H16O4
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.51 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | 8-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)chroman-4-carboxamide | 1 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(CCOC12)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C | C35H38N2O3
